US07157455B2
A solution of 5-bromo-2,4-dichloropyrimidine (18.8 g, 82.5 mmol, Aldrich) in tetrahydrofuran (50 mL) was chilled to −30° C. and isopropylmagnesium chloride (41.25 mL, 82.5 mmol, 2M in tetrahydrofuran, Aldrich) was added. The mixture was stirred at −30° C. for 20 minutes and a solution of 2,3-difluoro-6-methoxybenzaldehyde (12.91 g, 75 mmol, Apollo) in tetrahydrofuran (40 mL) was added slowly at this temperature. The mixture was then stirred at 0° C. for one hour and quenched with aqueous ammonium chloride. Extraction with ethyl acetate and crystallization from ethyl ether/hexanes gave 20.5 g of rac-(2,4-dichloro-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanol as a light yellow solid, MP 99–101° C. MS(ES) MH+ 322

reactant | 5-bromo-2,4-dichloropyrimidine | 82.5 mmol, 18.8 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | isopropylmagnesium chloride | 82.5 mmol, 2M, 41.25 mL | C(C)(C)[Mg]Cl
reactant | 2,3-difluoro-6-methoxybenzaldehyde | 75 mmol, 12.91 g | FC1=C(C=O)C(=CC=C1F)OC | C8H6F2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | rac-(2,4-dichloro-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanol | 20.5 g | ClC1=NC=C(C(=N1)Cl)C(O)C1=C(C(=CC=C1OC)F)F | C12H8Cl2F2N2O2
